US07531663B2
0.319 g (7.59 mmol) of lithium hydroxide monohydrate and 60 cm3 of water are added at 25° C. to 1.2 g (3.79 mmol) of 3-methoxycarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole dissolved in 60 cm3 of tetrahydrofuran. After stirring at the reflux point of the solvent for 24 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 30 cm3 of water and then triturated with 11.4 cm3 of N hydrochloric acid. After filtering off and drying the solid residue under reduced pressure (2.7 kPa) at 40° C., 1 g of 3-carboxy-1-(isoquinol-1-yl)-5-methyl-1H-indole is obtained in the form of a white solid. Mass spectrum (EI): m/e 302 (M+·), m/e 257.

reactant | lithium hydroxide monohydrate | 7.59 mmol, 0.319 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole | 3.79 mmol | COC(=O)C1=CN(C2=CC=C(C=C12)C)C1=NC=CC2=CC=CC=C12 | C20H16N2O2
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | water | 30 cm3 | O | H2O
solvent | water | 60 cm3 | O | H2O
product | 3-carboxy-1-(isoquinol-1-yl)-5-methyl-1H-indole | 1 g | C(=O)(O)C1=CN(C2=CC=C(C=C12)C)C1=NC=CC2=CC=CC=C12 | C19H14N2O2
